US03962378
149 g of 2-acetoxyethane-thiophosphonic acid-O,O-diethyl ester (preparation according to German Offenlegungsschrift No. 2.127.821) are heated to 65°-70°C in 100 ml of methanol containing 3 wt.% of HCl, while removing simultaneously by distillation a mixture of methyl acetate/methanol. The reaction is terminated after approx. 5 hours. The residue is submitted to distillation under reduced pressure; 117 g of 2-hydroxyethanethiophosphonic acid-O,O-diethyl ester (b.p. 84°-88°C/0.1 torr) are obtained, corresponding to a yield of 95% of the theoretical.

reactant | 2-acetoxyethane-thiophosphonic acid-O,O-diethyl ester | 149 g | C(C)OP(OCC)(=S)CCOC(C)=O | C8H17O4PS
reactant | HCl | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
product | 2-hydroxyethanethiophosphonic acid-O,O-diethyl ester | 117 g, yield of 95% | C(C)OP(OCC)(=S)CCO | C6H15O3PS
